US06306887B1
B. 3-[3-(1-Benzyloxycarbonylamino-3-methyl-butyl)-isoxazol-5-yl]-acrylic acid ethyl ester
A stirred mixture of [1-(5-formyl-isoxazol-3-yl)-3-methyl-butyl]-carbamic acid benzyl ester (407 mg, 1.3 mmol), pyridine (10 ml) and ethyl hydrogen malonate (255 mg, 1.9 mmol) was warmed to 55° C. After 2 days the mixture was cooled to room temperature, poured into water and extracted into EtOAc (3×). The combined organics were washed with 1N HCl, water, and brine; dried over NaSO4, filtered and concentrated under reduced pressure to give 480 mg of a yellow oil. Purification by Flash 40(small) chromatography eluting with 1:3 EtOAc/hexane gave 220 mg of the title compound as a light yellow oil. MS [M+1]+ 387.

reactant | [1-(5-formyl-isoxazol-3-yl)-3-methyl-butyl]-carbamic acid benzyl ester | 1.3 mmol, 407 mg | C(C1=CC=CC=C1)OC(NC(CC(C)C)C1=NOC(=C1)C=O)=O | C17H20N2O4
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | ethyl hydrogen malonate | 1.9 mmol, 255 mg | C(CC(=O)O)(=O)OCC | C5H8O4
solvent | water | O | H2O
product | 3-[3-(1-Benzyloxycarbonylamino-3-methyl-butyl)-isoxazol-5-yl]-acrylic acid ethyl ester | 480 mg | C(C)OC(C=CC1=CC(=NO1)C(CC(C)C)NC(=O)OCC1=CC=CC=C1)=O | C21H26N2O5
